US07544835B2
Ethyl 3-(3-hydroxy-4-methoxyphenyl)-2-isopropoxypropanoate
Using 3-benzyloxy-4-methoxybenzaldehyde and ethyl 2-(diethoxyphosphoryl)-2-isopropoxyacetate, the title compound was obtained in the same manner as described in Example 46b).

reactant | 3-benzyloxy-4-methoxybenzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | ethyl 2-(diethoxyphosphoryl)-2-isopropoxyacetate | C(C)OP(=O)(OCC)C(C(=O)OCC)OC(C)C | C11H23O6P
product | Ethyl 3-(3-hydroxy-4-methoxyphenyl)-2-isopropoxypropanoate | OC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C15H22O5
